Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Bactrim / Zestril
 
Attending: ___.
 
Chief Complaint:
symptomatic CAS
 
Major Surgical or Invasive Procedure:
___: Carotid artery stenting of the right internal carotid
artery

 
History of Present Illness:
___ year old man with hx of hypertension, head and neck cancer 
s/p resection and radiation circa ___ years ago, prostate CA s/p 
radiation in ___ ___ with transient vision loss in the right eye 
described as curtain coming down followed by vision loss. 
Carotid US showed bilateral carotid artery stenosis R>L. He 
returned ___ for stenting of the right CEA.
 
Past Medical History:
GERD
Hypertension
Basal cell carcinoma of the Head and neck s/p resection and
radiation ___ years ago
Prostate cancer s/p external
beam radiotherapy in ___
Depression
Kidney stones
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 853)
    Temp: 97.7 (Tm 0107), BP: 129/55 (109-174/47-64), HR: 71 
(64-108), Arterial BP: 143/48 (95-173/29-89), RR: 18 (___), O2 
sat: 99% (95-100), O2 delivery: ra
General: laying in bed
Cardio: normal S1, S2 ,no murmurs/rubs/gallops
Pulmonary: clear to auscultation bilaterally
GI: soft, non distended, NT
Groin: Rt: access site covered with dry gauze, palpable pulse
Groin Lt: palpable pulse
Pulses: Rt: p//p/p Lt: p//p/p
 
Pertinent Results:
___ 04:44AM BLOOD WBC-10.5* RBC-4.17* Hgb-12.1* Hct-37.4* 
MCV-90 MCH-29.0 MCHC-32.4 RDW-13.2 RDWSD-43.6 Plt ___
___ 04:44AM BLOOD Plt ___
___ 04:44AM BLOOD Glucose-98 UreaN-11 Creat-0.7 Na-135 
K-4.0 Cl-103 HCO3-20* AnGap-12
___ 04:44AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
___ is a ___ man with right amaurosis 
fugax admitted to the ___ on 
___. Ultrasound and CTA had previously revealed a right 
internal carotid artery stenosis in the setting of prior right 
neck dissection and neck irradiation for skin cancer.  The 
risks, benefits and alternatives to right carotid artery 
stenting were explained to the patient in
detail and he consented to proceed.

The patient was taken to the endovascular suite and underwent 
right carotid artery stenting of the right internal carotid. For 
details of the procedure, please see the surgeon's operative 
note. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. After a brief stay, the patient was 
transferred to the vascular surgery floor where he remained 
through the rest of the hospitalization. 

Post-operatively, he developed oozing from the R groin access 
site which resolved with held pressure. The gauze remained dry 
thereafter. He continued his daily ASA and Plavix. He was able 
to tolerate a regular diet, get out of bed and ambulate without 
assistance, void without issues, and pain was controlled on oral 
medications alone. He was deemed ready for discharge, and was 
given the appropriate discharge and follow-up instructions. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 
9. Vitamin D ___ UNIT PO DAILY 
10. sildenafil 20 mg oral Other 
11. Benzonatate 100 mg PO TID:PRN cough 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Benzonatate 100 mg PO TID:PRN cough  
5.  Clopidogrel 75 mg PO DAILY  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  sildenafil 20 mg oral Other  
10.  ubidecarenone-omega 3-vit E ___ mg-mg-unit oral 
DAILY  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
symptomatic CAS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Carotid Stent Discharge Instructions 

 MEDICATIONS: 
_x0095_ Take Aspirin 325 mg (enteric coated) once daily 
_x0095_ Take Plavix (Clopidogrel) 75mg once daily 
_x0095_ Continue all other medications you were taking before surgery, 
unless otherwise directed 
_x0095_ You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort 

ACTIVITIES: 
_x0095_ When you go home, you may walk and go up and down stairs 
_x0095_ You may shower (let the soapy water run over groin incision, 
rinse and pat dry) 
_x0095_ Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid on that area 
_x0095_ No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal) 
_x0095_ After 1 week, you may resume sexual activity 
_x0095_ After 1 week, gradually increase your activities and distance 
walked as you can tolerate 
_x0095_ No driving until you are no longer taking pain medications 
_x0095_ You should NOT have an MRI scan within the first 4 weeks after 
carotid stenting 

CALL THE OFFICE FOR: ___ 
_x0095_ Changes in vision (loss of vision, blurring, double vision, 
half vision) 
_x0095_ Slurring of speech or difficulty finding correct words to use 
_x0095_ Severe headache or worsening headache not controlled by pain 
medication 
_x0095_ A sudden change in the ability to move, use or feel your arm 
or leg 
_x0095_ Trouble swallowing, breathing, or talking 
_x0095_ Numbness, coldness or pain in lower extremities 
_x0095_ Temperature greater than 101.5F for 24 hours 
_x0095_ New or increased drainage from incision or white, yellow or 
green drainage from incisions 
_x0095_ Bleeding from groin puncture site 

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site) 
_x0095_ Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office at ___. 
_x0095_ If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 

 
Followup Instructions:
___